US07001917B2
Step 1. 2-[4-[5-pyridin-4-yl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}ethanol
The title compound was prepared according to the procedure described in step 1 of Example 1 from 2-(4-hydrazinophenyl)ethanol hydrochloride and 4,4,4-trifluoro-1-pyridin-4-ylbutane-1,3-dione: MS (ESI) m/z 334 [M+H]+, 1H-NMR (CDCl3) δ 8.60-8.58 (2H, m), 7.28-7.24 (4H, m), 7.14-7.12 (2H, m), 6.88 (1H, s), 3.90-3.86 (2H, m), 2.92 (2H, t, J=6.6 Hz), 1.52 (1H, br.s).

reactant | 2-(4-hydrazinophenyl)ethanol hydrochloride | Cl.N(N)C1=CC=C(C=C1)CCO
reactant | 4,4,4-trifluoro-1-pyridin-4-ylbutane-1,3-dione | FC(C(CC(=O)C1=CC=NC=C1)=O)(F)F | C9H6F3NO2
product | 2-[4-[5-pyridin-4-yl-3-(trifluoromethyl)-1H-pyrazol-1-yl]phenyl}ethanol | N1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)CCO)C(F)(F)F | C17H14F3N3O
